US05246948
Synthesis of 4-[(2-methylcarbamoylbenzoyl)aminomethylthio]pyridine
To a solution of 6.76 g (25.0 mmol) of 4-phthalimidomethylthiopyridine in 100 ml of chloroform, 5 ml of 40% methylamine-methanol solution was added, and the mixture was stirred at room temperature for 3 hours. Additional 5 ml of 40% methylamine-methanol solution was added, and the mixture was stirred at room temperature for 3 hours. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethanol/ethyl acetate =1:10), and the resulting crude product-was crystallized from methylene chloride-diethylether to give 2.645 g of the desired compound (35.1% yield, yellow crystals), mp. 118°-121° C.

reactant | 4-phthalimidomethylthiopyridine | 25.0 mmol, 6.76 g | C1(C=2C(C(N1CSC1=CC=NC=C1)=O)=CC=CC2)=O | C14H10N2O2S
reactant | methylamine methanol | 5 ml | CN.CO
reactant | methylamine methanol | 5 ml | CN.CO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[(2-methylcarbamoylbenzoyl)aminomethylthio]pyridine | 2.645 g, 35.1% yield | CNC(=O)C1=C(C(=O)NCSC2=CC=NC=C2)C=CC=C1 | C15H15N3O2S
